US07208493B2
6-(Naphthalene-2-yl)-3H-quinazolin-4-one
To a solution of 6-bromo-3H-quinazolin-4-one (47.1 mg, 0.2093 mmol) dissolved in 2 ml N,N-dimethylacetamide in a 20 ml vial, naphthalene-1-boronic acid (73 mg, 0.4244 mmol) dissolved in 1 ml ethanol and potassium carbonate (32.7 mg, 0.2366 mmol) dissolved in 1 ml water were added. Triphenylphosphine (5.5 mg, 0.021 mmol) and tris(dibenzylideneacetone)dipalladium (0) (3.8 mg, 4.1 umol) were added to the mixture which refluxed overnight. The crude product was poured into 50 ml saturated bicarbonate solution and methylene chloride was used to extract the product. Solvent in the organic phase was removed under vacuum. The resulted residue was purified by preparative HPLC. 26.3 mg product was obtained. Yield: 46%; 1H NMR (500 MHz, DMSO-d6): δ 7.54020–7.58965 (m, 2H), 7.80614–7.82312 (d, J=8.49 Hz, 1H), 7.94743–7.96828 (dd, J1=8.505 Hz, J2 =1.91 Hz, 1H), 7.96828–7.98243 (d, J=8.035 Hz, 1H), 8.05455–8.07187 (d, J=8.63 Hz, 1H), 8.16005(s, 1H), 8.30107–8.3226(dd, J1=8.58 Hz, J2=2.25 Hz, 1H), 8.37163–8.37447(d, J=1.42 Hz, 1H), 8.50638–8.51090(d, J=2.26 Hz, 1H); ESI-MS: m/z 273 (M++1)

reactant | 6-bromo-3H-quinazolin-4-one | 0.2093 mmol, 47.1 mg | BrC=1C=C2C(NC=NC2=CC1)=O | C8H5BrN2O
reactant | naphthalene-1-boronic acid | 0.4244 mmol, 73 mg | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | potassium carbonate | 0.2366 mmol, 32.7 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Triphenylphosphine | 0.021 mmol, 5.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bicarbonate | 50 ml | C([O-])(O)=O
solvent | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 4.1 umol, 3.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-(Naphthalene-2-yl)-3H-quinazolin-4-one | 26.3 mg, Yield: 46% | C1=C(C=CC2=CC=CC=C12)C=1C=C2C(NC=NC2=CC1)=O | C18H12N2O
